US07737136B2
5-Fluoro-2-phenoxynitrobenzene
Cs2CO3 (12.1 g, 62.9 mmol) was added to a solution of phenol (5.9 g, 62.9 mmol) in 400 mL of THF under N2. After stirring for 15 min. 2,5-difluoronitrobenzene (6.82 mL, 62.9 mmol) in 50 mL of THF was added. The resulting mixture was heated to 40° C. for 25 h. Reaction was followed by HPLC to detect disappearance of 2,5-difluoronitrobenzene. Water and ethyl acetate were added, followed by extraction with ethyl acetate (2×). The combined organic layers were successively washed with saturated aq. sodium bicarbonate (3×), water and brine, dried (Na2SO4) and evaporated. The crude compound was chromatographed on silica to remove excess of phenol. Elution with toluene/ethyl acetate 95:5 gave the title compound (12.6 g, 86%). Data: (m/z)=234 (M+H)+.

reactant | Cs2CO3 | 62.9 mmol, 12.1 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | phenol | 62.9 mmol, 5.9 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2,5-difluoronitrobenzene | 62.9 mmol, 6.82 mL | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | Water | O | H2O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Fluoro-2-phenoxynitrobenzene | 12.6 g, 86% | FC=1C=CC(=C(C1)[N+](=O)[O-])OC1=CC=CC=C1 | C12H8FNO3
